US05206240
Step B: Preparation of 3,4-Dihydro-1-oxospiro[naphthalene-2(1H),4'-piperidine]
A solution of 1.84 g (6.4 mmoles) ethyl 3,4-dihydro-1-oxospiro[naphthalene-2(1H), 4'piperidine] in 32 ml ethanol and 16 ml of 50% potassium hydroxide solution was heated at reflux for 18 hours. The solution was concentrated in vacuo to remove ethanol and the aqueous residue was extracted with 3×40 ml ether. The combined organic extracts were extracted with 2×40 ml 3N hydrochloric acid. The combined aqueous extracts were made basic with 10N sodium hydroxide and extracted with 3×75 ml ether. The combined organic extracts were washed with 20 ml water and brine, dried, and the solvent was removed in vacuo to give 1.07 g (78%) product as an oil;

reactant | ethyl 3,4-dihydro-1-oxospiro[naphthalene-2(1H), 4'piperidine] | 6.4 mmoles, 1.84 g | C(C)N1CCC2(CC1)C(C1=CC=CC=C1CC2)=O | C16H21NO
solvent | ethanol | 32 ml | C(C)O | C2H6O
solvent | potassium hydroxide | 16 ml | [OH-].[K+]
product | 3,4-Dihydro-1-oxospiro[naphthalene-2(1H),4'-piperidine] | 1.07 g, 78% | O=C1C2=CC=CC=C2CCC12CCNCC2 | C14H17NO
